* source P1
Q_Q9         N79984 N79984 N80402 BC846B 
R_R13         N79964 N79928  9.1k TC=0,0 
R_R3         N79964 N79776  1 TC=0,0 
R_R14         0 N79928  1k TC=0,0 
R_R10         N80392 N80402  510 TC=0,0 
R_R11         N80392 N80408  510 TC=0,0 
R_R4         0 VIN  180k TC=0,0 
R_R5         N80168 N79964  1 TC=0,0 
R_R8         N802401 N801381  51 TC=0,0 
Q_Q12         N80152 N79990 N80392 BC846B 
Q_Q7         N79674 N79674 N79960 BC846B 
Q_Q10         N79990 N79984 N80408 BC846B 
X_D1         LED PARAMS: IS=5.6404e-029 RS=2  BV=5 IBV=5e-6         
C_C1         N79990 N80152  10p  TC=0,0 
R_R6         N801381 N79964  51 TC=0,0 
R_R9         0 N802401  51 TC=0,0 
Q_Q4         N79492 N79674 N79776 BC846B 
R_R1         N84634 N79492  330 TC=0,0 
R_R7         N91465 N79610  10k TC=0,0 
R_R2         N796860 N84634  330 TC=0,0 
R_R16         N88786 N80392  330 TC=0,0 
R_R17         N888061 N88786  330 TC=0,0 
X_D3         LED PARAMS: IS=5.6404e-029 RS=2  BV=5 IBV=10e-6         
R_R18         N80392 N91465  22k TC=0,0 
Q_Q14         N79610 N79610 N99702 BC856B 
Q_Q15         N79984 N79928 N79760 BC856B 
Q_Q16         N80152 N80152 N79960 BC856B 
Q_Q17         N80392 N80152 N80168 BC856B 
Q_Q18         N79760 N79610 N99981 BC856B 
Q_Q19         N79674 N79610 N922072 BC856B 
Q_Q20         N79990 VIN N79760 BC856B 
C_C3         N79990 N80152  10p  TC=0,0 
C_C4         N79990 N80152  10p  TC=0,0 
R_R19         N99702 N79492  100 TC=0,0 
R_R20         N99981 N79492  100 TC=0,0 
R_R21         N922072 N79492  100 TC=0,0 
V_V11         0 N80392 12
V_V14         N79492 0 12
V_V15         VIN 0  AC 1
+SIN 0 0.9 1k 0 0 0
